US07053107B2
N-Prop-2-ynyl-2-[3-(pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzamide
Prepared in a similar manner to that described for Example 6 above, except using 2-[3-(Pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzoic acid and propargylamine. 1H NMR (DMSO-d6) δ 13.30 (1H, s), 9.82 (1H, s), 9.04 (1H, t, J=5.6 Hz), 8.98 (1H, s), 8.19 (1H, d, J=8.6 Hz), 7.69 (1H, d, J=7.9 Hz), 7.45(4H, m), 7.31 (1H, s), 7.08 (1H, d, J=8.6 Hz), 6.91 (1H, t, J=7.6 Hz), 6.21 (2H, s), 4.05 (2H, s), 3.13 (1H, s). Anal. Calcd for C22H18N6O. 0.40H2O. 0.05 Hexanes: C, 67.97; H, 5.01; N, 21.33. Found: C, 67.91; H, 4.78; N, 21.00.

reactant | 2-[3-(Pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzoic acid | N1(C=CC=C1)N=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1 | C19H15N5O2
reactant | propargylamine | C(C#C)N | C3H5N
product | N-Prop-2-ynyl-2-[3-(pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzamide | C(C#C)NC(C1=C(C=CC=C1)NC1=CC=C2C(=NNC2=C1)C=NN1C=CC=C1)=O | C22H18N6O
